US08629271B2
b) Methyl 4-hydroxy-2,5-dimethylbenzoate
Acetyl chloride (0.107 mL) was added dropwise to a solution of 4-hydroxy-2,5-dimethylbenzoic acid (example 18, step a) (0.249 g) in methanol (15 mL) and the resulting mixture stirred at room temperature for 72 h. Acetyl chloride (0.107 mL) was then added and the reaction heated to 50° C. and stirred at this temperature overnight. The reaction was concentrated and the residue purified by silica gel chromatography eluting with 1:1 isohexane:ethyl acetate to 100% ethyl acetate gradient. The fractions containing product were combined and evaporated in vacuo to give the subtitled compound as a white solid. Yield 0.25 g.

reactant | Acetyl chloride | 0.107 mL | C(C)(=O)Cl | C2H3ClO
reactant | 4-hydroxy-2,5-dimethylbenzoic acid | OC1=CC(=C(C(=O)O)C=C1C)C | C9H10O3
reactant | Acetyl chloride | 0.107 mL | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 15 mL | CO | CH4O
product | Methyl 4-hydroxy-2,5-dimethylbenzoate | OC1=CC(=C(C(=O)OC)C=C1C)C | C10H12O3
